US08957066B2
(E)-N-(2-amino-5-fluorophenyl)-3-(1-methyl-1H-pyrazol-4-yl)acrylamide
Protecting group removal was effected by addition of a 4M solution of HCl in dioxane (2.5 mL) to a solution of (E)-tert-butyl (4-fluoro-2-(3-(1-methyl-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate (0.10 g, 0.28 mmol) in dioxane (2.5 mL). The mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with diethyl ether (20 mL) and the hydrochloride salt of (E)-N-(2-amino-5-fluorophenyl)-3-(1-methyl-1H-pyrazol-4-yl)acrylamide precipitated was filtered. It was suspended in a saturated sodium bicarbonate solution and the mixture was stirred. The solid was filtered and washed with water then dried under vacuum to give the pure product (58 mg) as an off-white solid. ES+(M+H)+261.

reactant | HCl | Cl | ClH
reactant | (E)-tert-butyl (4-fluoro-2-(3-(1-methyl-1H-pyrazol-4-yl)acrylamido)phenyl)carbamate | 0.28 mmol, 0.10 g | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC(\C=C\C=1C=NN(C1)C)=O | C18H21FN4O3
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (E)-N-(2-amino-5-fluorophenyl)-3-(1-methyl-1H-pyrazol-4-yl)acrylamide | 58 mg | NC1=C(C=C(C=C1)F)NC(\C=C\C=1C=NN(C1)C)=O | C13H13FN4O
